US07696224B2
1.1 A solution of 17.23 g of 3,4-diamino-2-chloropyridine and 19.46 g of 1,1′-carbonyldiimidazole in THF is stirred at room temperature for 16 hours. The product is separated off and dried, giving 17.6 g of 4-chloro-3H-imidazo[4,5-c]pyridin-2-ol (“1”).

reactant | 3,4-diamino-2-chloropyridine | 17.23 g | NC=1C(=NC=CC1N)Cl | C5H6ClN3
reactant | 1,1′-carbonyldiimidazole | 19.46 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-chloro-3H-imidazo[4,5-c]pyridin-2-ol | 17.6 g | ClC1=NC=CC2=C1NC(=N2)O | C6H4ClN3O
